US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2-chlorophenyl)-pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with 2-chlorophenylacetamide. 1H NMR (DMSO-d6) 400 MHz δ: 11.655(s, 1H), 7.41-7.48(m, 2H), 7.27-7.35(m, 3H, J=7.2), 7.87(d, 1H, J=7.6), 6.81-6.88(m, 2H), 4.632 (d, 1H, J=7.6 Hz), 4.494(d, 1H, J=7.2), 4.07-4.10 (m, 2H), 2.884(m, 2H), 2.09(m, 2H).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | 2-chlorophenylacetamide | ClC1=C(C=CC=C1)CC(=O)N | C8H8ClNO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2-chlorophenyl)-pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=C(C=CC=C2)Cl)=O)=O | C21H17ClN2O2
